US08134001B2
Preparation of intermediate 1-[5-fluoro-2-{4-[2-(tert-butyl-dimethyl-silanyloxy)ethoxy]-phenoxy}-phenyl]-3-trimethylsilanyloxy-2-aza-1,3-butadiene
In a manner similar to the method described in example 112b, 5-fluoro-2-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenoxy}-benzaldehyde was treated with LHMDS, acetyl chloride, triethylamine and chloro-trimethyl-silane to give the desired compound, which was directly used for the next step.

reactant | 5-fluoro-2-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenoxy}-benzaldehyde | FC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)OCCO[Si](C)(C)C(C)(C)C | C21H27FO4Si
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | chloro-trimethyl-silane | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[5-fluoro-2-{4-[2-(tert-butyl-dimethyl-silanyloxy)ethoxy]-phenoxy}-phenyl]-3-trimethylsilanyloxy-2-aza-1,3-butadiene | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC=C(C=C1)OCCO[Si](C)(C)C(C)(C)C | C26H38FNO4Si2
